US06051712
4.5 g (16.8 mmol) of 1-benzyl-4-(4-fluoro-phenyl)-1,2,3,6-tetrahydro-pyridine were suspended in 55 ml of water, then partially dissolved by the addition of 70 ml of concentrated hydrochloric acid, 1.36 g (45.3 mmol) of paraformaldehyde were added and the mixture was stirred at 100° C. for 5 hours. After cooling to room temperature the mixture was adjusted to pH 5-6 with sodium hydroxide solution and the product was extracted twice with 100 ml of ethyl acetate. The organic phases were washed once with 100 ml of water, dried over magnesium sulphate, filtered and concentrated in a water-jet vacuum. The thus-obtained crude product was chromatographed on silica gel with hexane and ethyl acetate as the eluent (sic). There were obtained 3.91 g (78% of theory) of (RS)-[1-benzyl-4-(4-fluoro-phenyl)-1,2,3,6-tetrahydro-pyridin-3-yl]-methanol; MS: 297 (M)+.

reactant | 1-benzyl-4-(4-fluoro-phenyl)-1,2,3,6-tetrahydro-pyridine | 16.8 mmol, 4.5 g | C(C1=CC=CC=C1)N1CCC(=CC1)C1=CC=C(C=C1)F | C18H18FN
reactant | hydrochloric acid | 70 ml | Cl | ClH
reactant | paraformaldehyde | 45.3 mmol, 1.36 g | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 55 ml | O | H2O
product | (RS)-[1-benzyl-4-(4-fluoro-phenyl)-1,2,3,6-tetrahydro-pyridin-3-yl]-methanol | 3.91 g, 78% | C(C1=CC=CC=C1)N1CC(C(=CC1)C1=CC=C(C=C1)F)CO | C19H20FNO
